US05358938
trans-2-(3,4-Dimethoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene (compound 123, FIG. 3)
trans-2-(3,4-Dimethoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene (0.3 g, 0.69 mmole) was suspended in 10 ml of ethanol. To this was added CaCl2 (72.63 mg, 0.65 mmole) in 2 mL water, followed by zinc metal (1.01 g). The suspension was refluxed for 5 hours, filtered, and the residue was washed with ethanol. The combined filtrate was washed with 10% NaHCO3, water and saturated aqueous sodium chloride, dried over MgSO4 and evaporated in vacuo to an oil that was purified by flash column chromatography using 1:1 hexane/ethyl acetate as solvent (30 mg, 10.8%). 1H NMR (CDCl3): 2.10 (m, 2H); 2.57 (m, 2H); 3.81 (s, 3H); 3.83 (s, 3H); 3.87 (s, 3H); 3.89 (s, 6H); 4.80 (m, 2H); 6.45 (d, 1H); 6.51 (d, 1H); 6.70 (s, 2H).

reactant | trans-2-(3,4-Dimethoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene | 0.69 mmole, 0.3 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])[C@@H]1S[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C21H25NO7S
reactant | CaCl2 | 0.65 mmole, 72.63 mg | [Cl-].[Cl-].[Ca+2]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
catalyst | zinc | 1.01 g | [Zn] | Zn
product | trans-2-(3,4-Dimethoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene | COC=1C=C(C=C(C1OC)N)[C@@H]1S[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C21H27NO5S
